US04173634
B. 2-(p-Chlorobenzylidene)-1-indanone oxide
Ten grams (0.039 mole) of 2-(p-chlorobenzylidene)-1-indanone is converted to the epoxide in 1 liter of MeOH, using 9.6 g (0.085 mole) of 30% H2O2 and 9.6 ml (0.039 mole) of 16% NaOH, as described in Example 1. Since the starting material is poorly soluble in MeOH it is oxidized as a suspension and the product separates during the course of the reaction (5 hours at 35°-38°). The crude yield is 10 g (94%); m.p. 162°-164°. Crystallization (of 9.7 g) from 70 ml of MeCN gives 8.8 g (86%) of nearly colorless solid; m.p. 165°-167°.

reactant | 2-(p-chlorobenzylidene)-1-indanone | 0.039 mole, Ten grams | ClC1=CC=C(C=C2C(C3=CC=CC=C3C2)=O)C=C1 | C16H11ClO
reactant | H2O2 | 0.085 mole, 9.6 g | OO | H2O2
reactant | NaOH | 0.039 mole, 9.6 ml | [OH-].[Na+]
solvent | MeOH | 1 liter | CO | CH4O
product | 2-(p-Chlorobenzylidene)-1-indanone oxide | ClC1=CC=C(C=C2C(C3=CC=CC4C3(C2)O4)=O)C=C1 | C16H11ClO2
